US09445606B2
2-hydroxyacetophenone (6.8 g, 50 mmol) was condensed with vanillin (7.7 g, 50 mmol) in ethanol (100 ml) and piperidine (8.5 g) at room temperature (20° C.) under nitrogen for 4 days to give 2′,4-dihydroxy-3-methoxychalcone. The crude mixture was filtered and the filter residue was washed with ethanol. The crude product (9.8 g) was stirred up with ethyl acetate and the intermediate product was filtered off (yield 8.3 g, 61% of theoretical). The intermediate product (2.73 g, 10 mmol) was then hydrogenated in ethanol (60 ml) using hydrogen at atmospheric pressure with the aid of a palladium catalyst on activated carbon (0.3 g, 10 wt. % Pd content, moist, water content ca. 50 wt. %), then filtered and the filtrate was evaporated to dryness, wherein compound 5 was obtained as a colourless crystalline material (2.3 g, purity >95%).

reactant | 2-hydroxyacetophenone | 50 mmol, 6.8 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | vanillin | 50 mmol, 7.7 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | piperidine | 8.5 g | N1CCCCC1 | C5H11N
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 2′,4-dihydroxy-3-methoxychalcone | OC1=C(C(C=CC2=CC(=C(C=C2)O)OC)=O)C=CC=C1 | C16H14O4
